simulator lang=spectre

global 0 vdd vss
include "./22nm_HP.pm"
parameters voltage=0
vdd_I1 ( vdd 0 ) vsource dc=0.8
vss_I1 ( vss 0 ) vsource dc=voltage


******************INVERTER SUBCIRCUIT****************

parameters L=22n Ln=L Wn=2*Ln k=1.293

subckt inv (out in)
m1 ( out in vdd vdd ) pmos l=L w=k*Wn
m2 ( out in vss vss ) nmos l=Ln w=Wn
ends inv



************Top level circuit******************

xinv1 ( 1 3 ) inv
xinv2 ( 2 1 ) inv
xinv3 ( 3 2 ) inv


tran1 tran stop=3n maxstep=1p method=trap skipdc=yes
ic 1=0.8

vsweep sweep param=voltage start=0 stop=0.4 step=0.01 {
tran_run tran stop=4n step=1p method=trap
}





simulator lang=spice

.MEASURE TRAN time_period
+ TRIG V(1) VAL=0.4 RISE=5
+ TARG V(1) VAL=0.4 RISE=6


